US05981762
5-Carbonylphenyl-3-methyl-indole-2-carboxylic acid
To a solution of ethyl 5-carbonylphenyl-3-methyl-indole-2-carboxylate (10 mg, 0.034 mmol) and THF (0.5 mL) was added a solution of LiOH (3.6 mg, 0.15 mmol) and water (0.2 mL). The solution was stirred for 6 h, poured into a mixture of 1 N HCl (1 mL) and ethyl acetate (2 mL). The organic layer was separated, the aqueous layer extracted with ethyl acetate and the combined organic layers was washed with water (1 mL). The solution was dried (MgSO4), filtered and concentrated to give the title compound as a white solid.

reactant | ethyl 5-carbonylphenyl-3-methyl-indole-2-carboxylate | 0.034 mmol, 10 mg | C(=O)=C1CC=CC(=C1)C1=C2C(=C(NC2=CC=C1)C(=O)OCC)C | C19H17NO3
reactant | THF | 0.5 mL | C1CCOC1 | C4H8O
reactant | LiOH | 0.15 mmol, 3.6 mg | [Li+].[OH-]
reactant | HCl | 1 N, 1 mL | Cl | ClH
solvent | ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 0.2 mL | O | H2O
product | 5-Carbonylphenyl-3-methyl-indole-2-carboxylic acid | C(=O)=C1CC=CC(=C1)C1=C2C(=C(NC2=CC=C1)C(=O)O)C | C17H13NO3
